US07959990B2
37.5 g (85 mmol) of 8-{4-[2-cyano-2-(3,4-dimethoxyphenyl)vinyl]-2-methoxyphenoxy}-octan-1-ol were dissolved in 200 ml of tetrahydrofurane. 25.9 g (256 mmol) of triethylamine and 1 g (8.5 mmol) of 4-dimethylaminopyridine were added at room temperature. The solution was cooled to 0° C. and 15.8 g (102 mmol) of methacrylic anhydride in 20 ml of tetrahydrofurane were added dropwise to the solution. After 2 h reaction at 0° C., the solution was then allowed to heat up to room temperature. After 15 h reaction, the solution was poured on 1.5 g of icy water. The precipitate was filtrated, washed with water and dried overnight at 40° C. under vacuum. 38.0 g of 8-{4-[2-cyano-2-(3,4-dimethoxyphenyl)vinyl]-2-methoxyphenoxy}octyl methacrylate as a yellow solid were obtained (88% yield).

reactant | 8-{4-[2-cyano-2-(3,4-dimethoxyphenyl)vinyl]-2-methoxyphenoxy}-octan-1-ol | 85 mmol, 37.5 g | C(#N)C(=CC1=CC(=C(OCCCCCCCCO)C=C1)OC)C1=CC(=C(C=C1)OC)OC | C26H33NO5
reactant | triethylamine | 256 mmol, 25.9 g | C(C)N(CC)CC | C6H15N
reactant | methacrylic anhydride | 102 mmol, 15.8 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | water | 1.5 g | O | H2O
solvent | tetrahydrofurane | 200 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 8.5 mmol, 1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
product | 8-{4-[2-cyano-2-(3,4-dimethoxyphenyl)vinyl]-2-methoxyphenoxy}octyl methacrylate | 38.0 g, 88% yield | C(C(=C)C)(=O)OCCCCCCCCOC1=C(C=C(C=C1)C=C(C1=CC(=C(C=C1)OC)OC)C#N)OC | C30H37NO6
